US07812028B2
e) 6-(2-Chloro-phenyl)-5-pyrrolidin-1-yl-pyrazine-2-carboxylic Acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
To a solution of 0.10 g 6-(2-chloro-phenyl)-5-pyrrolidin-1-yl-pyrazine-2-carboxylic acid in 3.0 ml of DMF is added at room temperature 0.082 g 1,1′-carbonyl-diimidazole, 0.22 ml N-ethyldiisopropylamine and 0.057 g (1R,2R)-2-amino-cyclohexanol hydrochloride and stirred for 72 hours. To the mixture is added citric acid 10% solution and ethyl acetate. The organic layer is washed with sodium bicarbonate 10% solution and sodium chloride saturated solution. The organic layer is separated and dried over sodium sulfate and evaporated at the rotary evaporator. The residue is purified by chromatography on silica gel with heptane/ethyl acetate 40/60 to yield 0.055 g of the title compound as white solid, MS (ISP) 401.3 (M+H)+.

reactant | 6-(2-chloro-phenyl)-5-pyrrolidin-1-yl-pyrazine-2-carboxylic acid | 0.10 g | ClC1=C(C=CC=C1)C1=C(N=CC(=N1)C(=O)O)N1CCCC1 | C15H14ClN3O2
reactant | 1,1′-carbonyl-diimidazole | 0.082 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-ethyldiisopropylamine | 0.22 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | (1R,2R)-2-amino-cyclohexanol hydrochloride | 0.057 g | Cl.N[C@H]1[C@@H](CCCC1)O
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | DMF | 3.0 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(2-Chloro-phenyl)-5-pyrrolidin-1-yl-pyrazine-2-carboxylic Acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | 0.055 g | O[C@H]1[C@@H](CCCC1)NC(=O)C1=NC(=C(N=C1)N1CCCC1)C1=C(C=CC=C1)Cl | C21H25ClN4O2
